US05424446
In methanol (284 ml)is suspended 2',3',4'-trichloroacetophenone (94.7 g), and thereto is added sodium borohydride (7.6 g) at 15° C.-25° C. The mixture is stirred at 25° C. for two hours, and evaporated to remove the methanol. To the residue is added 2N hydrochloric acid (110 ml), and the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried, and evaporated to remove the solvent to give crude 1-(2,3,4-trichlorophenyl)ethanol (95 g).

reactant | 2',3',4'-trichloroacetophenone | 94.7 g | ClC1=C(C=CC(=C1Cl)Cl)C(C)=O | C8H5Cl3O
reactant | sodium borohydride | 7.6 g | [BH4-].[Na+]
solvent | methanol | 284 ml | CO | CH4O
product | 1-(2,3,4-trichlorophenyl)ethanol | 95 g | ClC1=C(C=CC(=C1Cl)Cl)C(C)O | C8H7Cl3O
